US07396847B2
Methansulfonic acid 3-(4-bromo-phenyl)-4,5-dihydro-isoxazol-5-ylmethyl ester
[3-(4-Bromo-phenyl)-4,5-dihydro-isoxazol-5-yl]-methanol (84.3 g, 328 mmol) was added to anhydrous dichloromethane (500 ml) followed by addition of triethylamine (64.1 ml, 459.2 mmol). The solution was allowed to cool to 0° C. followed by dropwise addition of methane sulfonyl chloride (30.65 ml, 396 mmol). The reaction was stirred for 2 hours at 0° C. and then aqueous sodium bicarbonate (200 ml) was added. After further extraction with dichloromethane (2×200 ml), the organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to give the desired product (110 g).

reactant | [3-(4-Bromo-phenyl)-4,5-dihydro-isoxazol-5-yl]-methanol | 328 mmol, 84.3 g | BrC1=CC=C(C=C1)C1=NOC(C1)CO | C10H10BrNO2
reactant | triethylamine | 459.2 mmol, 64.1 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 396 mmol, 30.65 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | Methansulfonic acid 3-(4-bromo-phenyl)-4,5-dihydro-isoxazol-5-ylmethyl ester | 110 g | BrC1=CC=C(C=C1)C1=NOC(C1)COS(=O)(=O)C | C11H12BrNO4S
